### PR TITLE
Solutions for weeks 5 & 6

### LINKED ISSUE #29: Add solutions for weeks 5 & 6

### PR DESCRIPTION
**Pull request by themathqueen**

### CODE REVIEW

File: Solutions/Workshops/workshop6.lean [hunk 1]
```diff
@@ -0,0 +1,284 @@
...
+-- 2. Here we define a type of special RGB points.
+
+structure SpecialPoint extends Point ℕ, RGBValue where
+  gradientEqn : x = red
+
+-- Now define an addition function for special points.
+
+namespace SpecialPoint
+
+def add : SpecialPoint → SpecialPoint → SpecialPoint := λ a b ↦ sorry
```
Comment (themathqueen) [inline Solutions/Workshops/workshop6.lean]: not sure how to fill this `sorry` in

File: Solutions/Workshops/workshop5.lean [hunk 2]
```diff
@@ -0,0 +1,425 @@
...
+#check MyNat.recOn
+
+/-
+  # Exercises
+-/
+
+-- 1. Prove that addition is associative. (Can you do it in 3 lines?)
+-- i can do it in 1 line hehe
+lemma add_assoc (n m k : MyNat) : add (add n m) k = add n (add m k) := by
+{ induction k with | zero => rfl | succ _ h => simp_rw [add_succ, h] }
```
Comment (AdrianDoM) [inline Solutions/Workshops/workshop5.lean]: Is there a reason why we have `{}` after some `by`s but not others? I thought the point of the indentation was that we didn't need `{}`.

File: Solutions/Workshops/workshop6.lean (hunk 1 above)
Comment (AdrianDoM) [reply Solutions/Workshops/workshop6.lean]: We could ask @PatrickKinnear, but I suspect we just want to add the `red` values together with the `x` values. Of course in terms of RGB that doesn't make much sense.

File: Solutions/Homeworks/homework5.lean [hunk 3]
```diff
@@ -0,0 +1,217 @@
...
+#check Nat.of_le_succ
+#check dvd_mul_of_dvd_right
+#check dvd_mul_right
+
+-- Now use `le_fac_self`, `dvd_fac` and `Nat.exists_prime_and_dvd` to prove that there are
+-- infinitely many primes.
+#check Nat.exists_prime_and_dvd
+
+theorem exists_prime_ge (n : ℕ) : ∃ p, p > n ∧ Nat.Prime p :=
+Nat.exists_infinite_primes (Nat.succ n)
```
Comment (AdrianDoM) [inline Solutions/Homeworks/homework5.lean]: The point of this question was to use the lemmas we have proved before, not to just cite mathlib. I can make this into a proper solution.

File: Solutions/Homeworks/homework5.lean [hunk 4]
```diff
@@ -0,0 +1,217 @@
...
+
+/-
+  ## Q2: Other kinds of induction
+  Sometimes, we want to do induction on `ℕ` but starting from something other than `0`.
+  The lemma `Nat.le_induction` is useful for this, but using it can be a bit tricky.
+-/
+
+-- Try proving this by regular induction on `n`. You will see that it is not so easy.
+example (x : ℝ) (n : ℕ) (hx : x ≥ 2) (hn : n ≥ 1) : x ^ n ≥ n * x := by
+{ induction n with
```
Comment (AdrianDoM) [inline Solutions/Homeworks/homework5.lean]: By regular induction I didn't necessarily mean `induction` instead of `induction'`, but I guess this is a good example of the usage of `induction`.

File: Solutions/Homeworks/homework6.lean [hunk 5]
```diff
@@ -0,0 +1,128 @@
...
+
+def QuotientMonoid.mk [CommMonoid M] (N : Submonoid M) : M → M ⧸ N := Quotient.mk N.Setoid
+
+-- Now we can define the monoid structure on the quotient type.
+-- Try to fill in the following instance declaration.
+
+-- You can use `Setoid.refl` but it won't always be able to detect the relvant setoid structure.
+-- In that case, you can use `@Setoid.refl M N.Setoid` to explicitly specify the setoid structure.
+instance [CommMonoid M] (N : Submonoid M) : Monoid (M ⧸ N) :=
+  letI : Setoid M := Submonoid.Setoid M N
```
Comment (AdrianDoM) [inline Solutions/Homeworks/homework6.lean:114]: I'm not sure we introduced `letI` in the workshop (apologies if we did). Maybe we should write a comment about it.

File: Solutions/Exercises/ex5.lean [hunk 6]
```diff
@@ -0,0 +1,248 @@
...
+
+#check (Nat.cast : ℕ → _)
+-- Cast is defined in greater generality as a function `ℕ → α` for certain types `α`.
+-- This argument is implicit, but we can provide it explicilty using the `(α := ℤ)` syntax.
+#check Nat.cast 0
+-- Note that Lean uses the `↑` notation for `Nat.cast`. We will learn more about this next week.
+
+lemma not_surjective_nat_int : ¬ Surjective (Nat.cast : ℕ → ℤ) := λ h => by
+{ obtain ⟨x, hx⟩ := h (-1)
+  simp only [Int.reduceNeg] at hx }
```
Comment (AdrianDoM) [inline Solutions/Exercises/ex5.lean]: This line is giving an error on my end.

**Review by AdrianDoM — COMMENTED** [review]
Thanks for writing these! There are just a few things I commented on,

File: Solutions/Exercises/ex5.lean (hunk 6 above)
Comment (AdrianDoM) [reply Solutions/Exercises/ex5.lean]: This would work
```suggestion
  have : (0 : ℤ) ≤ ↑x := Nat.cast_nonneg x
  linarith }
```

File: Solutions/Workshops/workshop6.lean (hunk 1 above)
Comment (themathqueen) [reply Solutions/Workshops/workshop6.lean]: Yeah, that's what I was thinking too. I guess we can just do like what you said and add a note above it?

File: Solutions/Workshops/workshop5.lean (hunk 2 above)
Comment (themathqueen) [reply Solutions/Workshops/workshop5.lean]: Yeah haha, my bad. I'll edit these and remove the brackets.

I was using brackets because I'm used to Lean 3's `begin` and `end`.

File: Solutions/Homeworks/homework5.lean (hunk 3 above)
Comment (themathqueen) [reply Solutions/Homeworks/homework5.lean]: Lmao, that makes more sense. I wrote the solutions too quickly, without realising this.
Feel free to write a proper solution!

File: Solutions/Homeworks/homework5.lean (hunk 4 above)
Comment (themathqueen) [reply Solutions/Homeworks/homework5.lean]: what is regular `induction` then?

File: Solutions/Exercises/ex5.lean (hunk 6 above)
Comment (themathqueen) [reply Solutions/Exercises/ex5.lean]: Ah, I think you need to update mathlib on your end, and so does everyone else

Comment (AdrianDoM) [reply Solutions/Exercises/ex5.lean]: If we want students (and us) to update the dependency versions we should add `lake-manifest.json` to `.gitignore`, and maybe even `lean-toolchain`, shouldn't we?

File: Solutions/Homeworks/homework5.lean (hunk 4 above)
Comment (AdrianDoM) [reply Solutions/Homeworks/homework5.lean]: I just meant `induction'` without any `using`, but this is fine.

File: Solutions/Exercises/ex5.lean [hunk 7]
```diff
@@ -0,0 +1,248 @@
...
+-- forgot to say that `n : ℕˣ`
+theorem myEven_pow : ∀ m (n : ℕˣ), myEven m → (myEven (m ^ (n : ℕ))) := λ m n hm => by
+-- changing `n : ℕˣ` to `n' : ℕ` instead of having coercions everywhere
+let n' : ℕ := n; have : n' = n := rfl; simp only [← this, Ne.def] at *; clear this
+have hnn : 1 ≤ n' := Nat.one_le_iff_ne_zero.mpr (n.ne_zero)
+-- `revert` so that `n'` can be replaced in `hnn` as well
+revert hnn
+induction n' with
+| zero => intro; contradiction
+| succ _ _ => rw [pow_succ']; exact λ _ => mul_myEven _ _ hm
```
Comment (AdrianDoM) [inline Solutions/Exercises/ex5.lean]: Not sure how this happened, but this line is now giving me an error. Maybe it's because I updated mathlib? But that shouldn't give a type error here.

File: Solutions/Exercises/ex5.lean [hunk 8]
```diff
@@ -0,0 +1,248 @@
...
+have hnn : 1 ≤ n' := Nat.one_le_iff_ne_zero.mpr (n.ne_zero)
+-- `revert` so that `n'` can be replaced in `hnn` as well
+revert hnn
+induction n' with
+| zero => intro; contradiction
+| succ _ hd =>
+  { intro hn
+    rcases Nat.le_or_eq_of_le_succ hn with (h | h)
+    { rw [pow_succ']
+      exact myOdd_mul_myOdd _ _ (hd h) hm }
```
Comment (AdrianDoM) [inline Solutions/Exercises/ex5.lean:116]: Same here, there is now a type error.

File: Solutions/Homeworks/homework5.lean [hunk 9]
```diff
@@ -0,0 +1,217 @@
...
+  | zero => linarith
+  | succ d hd =>
+    { rcases Nat.of_le_succ hn with (h|h)
+      { simp_rw [Nat.cast_succ, pow_succ', add_mul, one_mul, ge_iff_le]
+        calc x ^ d * x ≥ d * x * x :=
```
Comment (AdrianDoM) [inline Solutions/Homeworks/homework5.lean]: Type error here as well.

File: Solutions/Homeworks/homework5.lean [hunk 10]
```diff
@@ -0,0 +1,217 @@
...
+
+-- You will want to use things like:
+#check Finset.sum_range_zero
+#check Finset.sum_range_succ
+
+lemma sum_range (n : ℕ) : ∑ i in Finset.range n, (↑i : ℚ) = ↑n * (n - 1) / 2 := by
+{ induction n with
+  | zero => simp only [Nat.zero_eq, Finset.range_zero, Finset.sum_empty, CharP.cast_eq_zero,
+      zero_sub, mul_neg, mul_one, neg_zero, zero_div]
+  | succ _ hd => simp_rw [Finset.sum_range_succ, hd, Nat.cast_succ, add_sub_cancel]; linarith }
```
Comment (AdrianDoM) [inline Solutions/Homeworks/homework5.lean]: Type error here as well.

File: Solutions/Exercises/ex5.lean (hunk 6 above)
Comment (themathqueen) [reply Solutions/Exercises/ex5.lean]: I don't think we should. Because those get updated automatically.

But, anyway, I'm getting errors everywhere after updating now. So let's just stick to not updating it lol

File: Solutions/Exercises/ex5.lean (hunk 7 above)
Comment (themathqueen) [reply Solutions/Exercises/ex5.lean]: My errors at the moment are with all imports. It's weird because the files in a different repository are fine. Something is up with the repo

Comment (AdrianDoM) [reply Solutions/Exercises/ex5.lean]: Are these errors to do with `Std.Data.JSON`? I was getting a lot of those which got fixed by removing proofwidgets from the `lakefile`.

Comment (themathqueen) [reply Solutions/Exercises/ex5.lean]: ya u right
